US07910735B2
Production of N-isobutyloxycarbonyl-N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methylpyrazine-2-carboxamide (Compound No. 1-96)
Sodium hydride (32 mg, 60% by weight, 0.8 mmol) was suspended in THF (10 ml) and a THF solution (5 ml) of N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methylpyrazine-2-carboxamide (300 mg, 0.67 mmol) was dropwise added thereto. The reaction solution was stirred at room temperature for 30 minutes, and was dropwise added with a THF (2 ml) solution of isobutyl chlorocarbonate (110 mg, 0.8 mmol) and stirred for 2 hours. The reaction solution was poured into a diluted HCl solution, followed by extracting with ethyl acetate, and washing with water. The solution was dried over magnesium sulfate, and concentrated under reduced pressure, and then the residue was purified by using silica gel chromatography (hexane:ethyl acetate=3:1) to obtain 0.33 g of the desired compound.

reactant | Sodium hydride | 0.8 mmol, 32 mg | [H-].[Na+]
reactant | N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methylpyrazine-2-carboxamide | 0.67 mmol, 300 mg | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)(C(F)(F)F)OC)NC(=O)C1=NC=CN=C1C | C20H21F6N3O2
reactant | isobutyl chlorocarbonate | 0.8 mmol, 110 mg | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | HCl | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-isobutyloxycarbonyl-N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-methylpyrazine-2-carboxamide | 0.33 g, Yield: 90% | C(C(C)C)OC(=O)N(C(=O)C1=NC=CN=C1C)C1=CC(=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OC)CC(C)C | C25H29F6N3O4
